Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim / Claritin / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ CAD with NSTEMI in ___ s/p DES to LAD s/p in ___ DES 
to LCX presenting with onset of rightsided cp (typical of his 
angina equivilant). Pain started at rest around 1pm. resolved 
s/p nitroX2. No CP since then. Pt denies SOB, n,v, diaphoresis, 
dizziness, lightheaded. Of note, had a URI type illness ___ 
weeks ago that has resolved, but now has sporadic non-productive 
cough. 

In the ED, initial vitals were:  98.1 64 162/76 96RA  
- Labs were significant for WBC 17. Initial trop<.01, MN trop 
.02, and 02AM trop .03. 
- Imaging revealed  CXR with patchy R base opacity, most likely 
atelectasis, but could be consistent with PNA in the right 
clinical setting.
- The patient was given Asp 325,g, levofloxacin 750mg, 
atorvastatin 80mg. Was started on heparin gtt.  
Vitals prior to transfer were: 56 105/55 18 94% RA  

Upon arrival to the floor, pt CP free. No SOB, dizziness, 
lightheadedness. 
 
Past Medical History:
- Hypertension  
- CAD with NSTEMI in ___ s/p DES to LAD s/p in ___ DES to 
LCX 
- COPD not on oxygen  
- Chronic lymphocytic leukemia  
- Prostate cancer  
- DVT and PE in ___  
- GERD  
- Raynaud's syndrome  
- Osteoarthritis of left knee  
- Osteoporosis  
- Spinal stenosis  
- Attention deficit disorder  
- Anxiety and depression
 
Social History:
___
Family History:
- Sister has a brain tumor.
- No family history of early MI, arrhythmia, cardiomyopathies, 
or 
sudden cardiac death; father had colon cancer
 
Physical Exam:
ADMISSION
Vitals:  98.1 131/73 58 18 94/1L Wt 86.5kg
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally  

DISCHARGE
Vitals:  t 98 BP 140/70 HR 58 RR 18 94/1L 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: right base with rhonchi, no rales or wheezing. left lung 
CTA.   
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
 
Pertinent Results:
=======================================================
LABS

ADMISSION
___ 06:10PM BLOOD WBC-17.0* RBC-5.11 Hgb-13.8 Hct-42.8 
MCV-84 MCH-27.0 MCHC-32.2 RDW-18.4* RDWSD-53.7* Plt ___
___ 06:10PM BLOOD ___ PTT-30.3 ___
___ 06:10PM BLOOD Glucose-95 UreaN-32* Creat-1.2 Na-137 
K-4.8 Cl-101 HCO3-24 AnGap-17

CARDIAC BIOMARKERS
___ 06:10PM BLOOD cTropnT-<0.01
___ 12:00AM BLOOD cTropnT-0.02*
___ 01:50AM BLOOD cTropnT-0.03*
___ 09:00AM BLOOD cTropnT-0.03*
___ 03:40PM BLOOD cTropnT-0.03*
___ 10:04PM BLOOD cTropnT-0.02*
___ 10:00AM BLOOD cTropnT-0.01

DISCHARGE
___ 10:00AM BLOOD WBC-15.8* RBC-5.37 Hgb-14.4 Hct-45.5 
MCV-85 MCH-26.8 MCHC-31.6* RDW-19.1* RDWSD-55.3* Plt ___
___ 10:00AM BLOOD Glucose-145* UreaN-28* Creat-1.3* Na-139 
K-4.2 Cl-101 HCO3-26 AnGap-16

=======================================================
MICRO

___ CULTUREBlood Culture, 
Routine-PENDINGINPATIENT

___ CULTUREBlood Culture, 
Routine-PENDINGINPATIENT

___ CULTURE-FINALINPATIENT
No growth

=======================================================
IMAGING/STUDIES

___
Signnificant baseline artifact. Sinus rhythm. Diffuse 
non-specific ST segment straightening throughout. Compared to 
tracing #1 non-specific repolarization abnormalities are new and 
suggest an ongoing pharmacologic metabolic process. Clinical 
correlation is suggested. TRACING #2
Read ___
 Intervals  Axes
RatePRQRSQTQTc (___)  ___
___
 
   
___ (PA & LAT)
Patchy right base opacity most likely due to atelectasis, 
although infectious process is difficult to exclude in the 
appropriate clinical setting.  

___
Sinus rhythm. Tracing is within normal limits. Compared to the 
previous
tracing of ___ the rate is minimally faster and no longer 
technically
bradycardic. TRACING #1
Read ___
 Intervals  Axes
RatePRQRSQTQTc (___)  ___
___

 
Brief Hospital Course:
Mr. ___ is an ___ yo man with a history of NSTEMI s/p s/p 
DES to LAD (___), LCX (___) who presented with right sided 
light chest pressure at rest which was similar to his previous 
NSTEMIs. Of note, he described holding his aspirin and 
clopidogrel for a Dermatology procedure.

ACTIVE PROBLEMS
# NSTEMI
# Community acquired pneumonia

He was noted to have an NSTEMI with troponins peaking at 0.03. 
His EKG was unremarkable for ischemic change, normal sinus 
rhythm, TWI in V1, no STE, unchanged from prior. He was placed 
on a heparin gtt with a plan for cardiac catheterization. 
However, patient declined cardiac catheterization given his 
desire for no invasive procedures. He also declines reversal of 
code status from DNR/DNI for procedures. He is on Plavix, 
aspirin, carvidilol, atorvastatin 80, and lisinopril-HCTZ at 
home, and these were continued. Also, we counseled the patient 
yesterday that he could NOT,
under any circumstances, discontinue his DAPT without a 
cardiologist's permission.

In addition, he was noted to have a retrocardiac opacity, 
leukocytosis, and a history of cough x2-3 weeks. He was started 
on levofloxacin 750 mg x5 days with planned course from 
___.

Unfortunately, before our team could prepare his discharge 
paperwork, he walked to the nursing station dressed and shouted 
that we had "no regard for patient care." I asked him to stay 
for just a few minutes so that we could prepare the ___ and 
homemaker services he had requested earlier, but he declined, 
saying that we were just trying to "CYA." He did not leave with 
his prescription for levofloxacin, or his ___ services 
arranged. We forwarded this information to PCP and ___ 
in hopes they can assist with his follow-up care. 

TRANSITIONAL ISSUES
- NSTEMI likely precipitated by holding DAPT - iterate in the 
outpatient setting that he cannot discontinue these medications
- Levofloxacin 750 mg daily (___) for community acquired 
PNA was prescribed but NOT completed, and he should be queried 
specifically for PNA symptoms at next outpatient f/u
- Patient planned for cardiology appointment in ___ with 
Dr. ___ would recommend follow up in the next month 
with cardiology. Patient vocalized that he would make an 
appointment within the next month to see cardiology. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. BuPROPion (Sustained Release) 300 mg PO QAM 
4. Clopidogrel 75 mg PO DAILY 
5. DiphenhydrAMINE 25 mg PO QHS insomnia 
6. Fluticasone Propionate NASAL 2 SPRY NU DAILY PRN 
7. Lorazepam 1.5 mg PO QHS insomnia 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 20 mg PO DAILY 
10. AndroGel (testosterone) 1.25 gram/ actuation (1 %) 
transdermal 5 pumps daily 
11. lisinopril-hydrochlorothiazide ___ mg ORAL DAILY 
12. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
13. Atorvastatin 80 mg PO QPM 
14. Carvedilol 6.25 mg PO BID 
15. Amphetamine-Dextroamphetamine 10 mg PO TID 
16. glucosamine-chondroitin unknown strength oral 2 tablets PO 
daily 
17. Ascorbic Acid ___ mg PO DAILY 
18. Benefiber Clear SF (dextrin) (wheat dextrin) 3 gram/3.5 gram 
oral with meals 
19. azelastine 137 mcg (0.1 %) nasal 2 sprays NU BID as needed 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Amphetamine-Dextroamphetamine 10 mg PO TID 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. BuPROPion (Sustained Release) 300 mg PO QAM 
6. Clopidogrel 75 mg PO DAILY 
7. DiphenhydrAMINE 25 mg PO QHS insomnia 
8. Fluticasone Propionate NASAL 2 SPRY NU DAILY PRN 
9. Lorazepam 1.5 mg PO QHS insomnia 
10. Multivitamins 1 TAB PO DAILY 
11. Omeprazole 20 mg PO DAILY 
12. Carvedilol 6.25 mg PO BID 
13. Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*2 
Tablet Refills:*0
14. AndroGel (testosterone) 1.25 gram/ actuation (1 %) 
transdermal 5 pumps daily 
15. Ascorbic Acid ___ mg PO DAILY 
16. azelastine 137 mcg (0.1 %) nasal 2 sprays NU BID as needed 
17. Benefiber Clear SF (dextrin) (wheat dextrin) 3 gram/3.5 gram 
oral with meals 
18. glucosamine-chondroitin 0 strength ORAL 2 TABLETS PO DAILY 
19. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
20. lisinopril-hydrochlorothiazide ___ mg ORAL DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
NSTEMI
community acquired PNA

Secondary:
CAD w/ NSTEMI s/p DES to LAD ___ DES to LCX (___)
COPD
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were seen at ___ for the light chest 
pressure you felt in your chest that was the same as you 
experienced before with your heart attacks. You did have 
elevation of troponins, which indicates a lack of blood flow to 
your heart. This is concerning for ischemia, or the beginning of 
a heart attack. We placed you on a medication called heparin to 
prevent ischemia. Your troponins trended down, and your EKG was 
normal. You were seen by our cardiology team, who felt that you 
should have a cardiac catheterization to evaluate your heart 
vessels and stents. You declined this procedure as it is not 
within your goals of care. 

In addition, you were noted to have a pneumonia, and we are 
treating you with antibiotics. Please continue these until 
___.

We are keeping you on your home medications. Please follow up 
with your appointments that we have arranged. Please follow up 
with your cardiologist Dr. ___ the next month as we 
discussed.

It was a pleasure taking care of you.

Your ___ team
 
Followup Instructions:
___